Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Lisinopril
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___

 
History of Present Illness:
___ M with hx CAD s/p CABG (LIMA-LAD, SVG-OM, SVG-diag, SVG-PDA
___, inferior MI in ___, stent of LCx and ___ RCA in ___
(cath showed occluded SVG-Diag and RPDA at that time), ESRD on
HD, pAfib, HTN, and HLD who presented with chest pain and EKG
changes concerning for diffuse ischemia. 

He described substernal chest pain that started at rest around 9
pm on ___ with radiation to the left shoulder and throat with
associated nausea/vomiting, diaphoresis, and SOB. He took 5 SL
nitros and full dose aspirin with improvement of symptoms and
proceeded to the ED. In the ED, he was initially CP free but
after having a bowel movement developed sudden onset chest pain
with nausea and vomiting with dynamic EKG changes. Given Zofran
and IV nitro. BI dialysis group emailed.

In the ED,  
- Initial vitals were: T 98.1, HR 76, BP 131/47, RR 18, PO2 97%
RA 
- Exam notable for: systolic murmur noted throughout precordium,
lungs clear bilaterally, extremities warm; left upper arm 
fistula
- Labs notable for:  
  - Trop-T: 0.06, 3, hgb 9.4, Cr 6.2, WBK 4.8, 
- Studies notable for:
  - ECG at time of pain: ST elevation in aVR, ST depression in
aVR, V3-V6 resolved on repeat ECG (hyperacute T waves without
pain)
- Patient was given:  
IV Ondansetron 4 mg
IV DRIP Nitroglycerin 0.5 mcg/kg/min 
- Cardiology and ophthalmology was consulted: optho on their way
to evaluate the eye to decide on risk of starting heparin gtt 
iso
possible retinal hemorrhage. ED physician dilated eyes before
sending up. Optho with no contraindication to heparin so will
start before sending up. 
 
On arrival to the CCU, patient reports no chest pain. Says that
for the last ___ months patient has been experiencing similar
symptoms ___ when going to bed or taking a shower. With
such minimal exertion, he will experience a wave of nausea
followed by substernal chest tightness. He would vomit and have
the pressure radiate to his left shoulder. After sublingual 
nitro
x2 and rest, the pain usually resolved. Improved with more
aggressive UF removal with HD. Last night patient had the same
thing happen when getting into bed. Nausea, ran to the bathroom
and had the substernal chest pressure, followed by vomiting.
After 2 sublingual nitro the pain did not resolve so patient
called EMS. He eventually ended up taking 5 SL and 4 baby ASA,
after which he experienced some relief. 

Patient otherwise denies fevers, chills, abd pain, diarrhea,
dysuria, changes to diet/habits, new medication changes, stress.
Having stable sputum production with no new cough.  
 
 
Past Medical History:
HTN
Hyperdipidemia
Coronary artery disease
Gastroesophageal reflux disease
Chronic kidney diseas - Wegener's granulomatosis
Depression, currently working with counselor bimonthly
Appendectomy 
Hernia  repair in his 20s.
Leg cramps
Anemia

 
Social History:
___
Family History:
Mom: died at ___ of old age
Father, sister: died from lung CA
MGM: DM 
 
Physical Exam:
ADMISSION PHYSICAL:
====================
VS:  reviewed in metavision
GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 


NECK: Supple. JVP 10cm at 45 degrees.  
CARDIAC: Normal rate, regular rhythm. No murmurs, rubs, or
gallops.  
LUNGS: Respiration is unlabored with no accessory muscle use. No
wheezes, rales, crackles
ABDOMEN: Soft, non-tender, non-distended. +BS
EXTREMITIES: Warm, well perfused. No peripheral edema.  
SKIN: No significant lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE PHYSICAL:
===================
VS:  reviewed in metavision
GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 

NECK: Supple. JVP 10cm at 45 degrees.  
CARDIAC: Normal rate, regular rhythm. continuous murmur. No 
rubs,
or gallops.  
LUNGS: Respiration is unlabored with no accessory muscle use. No
wheezes, rales, crackles
ABDOMEN: Soft, non-tender, non-distended. +BS
EXTREMITIES: Warm, well perfused. No peripheral edema.  
SKIN: No significant lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
 
Pertinent Results:
ADMISSION LABS:
===============
___ 03:01AM BLOOD WBC-7.4 RBC-2.90* Hgb-9.4* Hct-29.0* 
MCV-100* MCH-32.4* MCHC-32.4 RDW-13.5 RDWSD-49.0* Plt ___
___ 06:25AM BLOOD ___ PTT-28.8 ___
___ 03:01AM BLOOD Glucose-97 UreaN-61* Creat-6.2* Na-141 
K-5.0 Cl-102 HCO3-24 AnGap-15
___ 06:25AM BLOOD ___ PTT-28.8 ___
___ 03:01AM BLOOD Glucose-97 UreaN-61* Creat-6.2* Na-141 
K-5.0 Cl-102 HCO3-24 AnGap-15

INTERVAL LABS:
==================
___ 03:01AM BLOOD CK-MB-3 cTropnT-0.06*
___ 08:44AM BLOOD CK-MB-3 cTropnT-0.08*
___ 05:10AM BLOOD CK-MB-7 cTropnT-0.23*
___ 01:08PM BLOOD CK-MB-7 cTropnT-0.29*

IMAGING:
===========
Cardiac Catheterization ___:
Coronary Description
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the
Left Anterior Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There is
a 50% stenosis in the proximal segment. There is a 70% stenosis 
in the proximal segment.
The ___ Diagonal, arising from the proximal segment, is a medium 
caliber vessel.
The Septal Perforator, arising from the mid segment, is a small 
caliber vessel.
The ___ Diagonal, arising from the mid segment, is a medium 
caliber vessel.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel.
The ___ Obtuse Marginal, arising from the proximal segment, is a 
medium caliber vessel.
The ___ Obtuse Marginal, arising from the mid segment, is a 
medium caliber vessel. There is a 100%
stenosis in the proximal and mid segments. There is a 90% 
stenosis in the mid segment.
The Superior lateral of the 2ndOM, arising from the distal 
segment, is a medium caliber vessel. There is
a 40% stenosis in the ostium and proximal segment.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel. There is a 30%
stenosis in the proximal segment. There is a stent in the 
proximal and mid segments. There is a 50%
stenosis in the mid segment.
The SinoAtrial, arising from the proximal segment, is a small 
caliber vessel.
The Right Posterolateral Artery, arising from the distal 
segment, is a medium caliber vessel.
The Right Posterior Descending Artery, arising from the distal 
segment, is a medium caliber vessel.
Name: MRN: Study Date: ___ 10:26:00 p. ___
Bypass Grafts:
LIMA: A medium caliber arterial LIMA graft connects to the mid 
segment of the LAD. This graft is
patent.
SVG: A medium caliber saphenous vein graft connects to the mid 
segment of the ___ Diag. There is a
100% stenosis in the proximal segment.
SVG: A medium caliber saphenous vein graft connects to the mid 
segment of the ___ OM. There is a
30% stenosis in the proximal segment.

___ ECHO:
The left atrial volume index is SEVERELY increased. The right 
atrium is moderately enlarged. There is mild symmetric left 
ventricular hypertrophy with a normal cavity size. There is mild 
global left
ventricular hypokinesis. The visually estimated left ventricular 
ejection fraction is 45%. There is no resting left ventricular 
outflow tract gradient. The right ventricular free wall is 
hypertrophied.
Moderately dilated right ventricular cavity with moderate global 
free wall hypokinesis. The aortic valve leaflets (3) are mildly 
thickened. There is no aortic valve stenosis. There is no aortic 
regurgitation. The mitral valve leaflets are mildly thickened. 
There is no mitral valve stenosis. There is an eccentric, 
inferolateral directed jet of moderate to severe [3+] mitral 
regurgitation. There is significant pulmonic regurgitation. The 
tricuspid valve leaflets appear structurally normal. There is 
moderate [2+] tricuspid
regurgitation. There is SEVERE pulmonary artery systolic 
hypertension. The end-diastolic PR velocity is elevated 
suggesting pulmonary artery diastolic hypertension. Compared 
with the prior TTE ___, left ventricular systolic 
function is reduced, mitral regurgitation is increased, and 
severe pulmonary hypertension is now present.

MICROBIOLOGY:
==============
None to report

DISCHARGE LABS:
===============
___ 12:19AM BLOOD WBC-6.8 RBC-2.69* Hgb-8.9* Hct-27.1* 
MCV-101* MCH-33.1* MCHC-32.8 RDW-13.5 RDWSD-49.6* Plt ___
___ 12:19AM BLOOD Glucose-80 UreaN-55* Creat-6.1*# Na-138 
K-5.5* Cl-97 HCO3-28 AnGap-13
___ 12:19AM BLOOD Calcium-8.9 Phos-4.8* Mg-2.0
 
Brief Hospital Course:
Patient Summary for Admission:
===============================
___ M with hx CAD s/p CABG (LIMA-LAD, SVG-OM, SVG-diag, SVG-PDA 
___, inferior MI in ___, stent of LCx and ___ RCA in 
___ showed occluded SVG-Diag and RPDA at that time), ESRD 
on HD, pAfib, HTN, and HLD who presented with chest pain and EKG 
changes concerning for diffuse ischemia, now s/p DES to SVG-OM 
anastomosis from prior vein graft on ___. 

#CORONARIES: LIMA-LAD, SVG-OM, SVG-diag, SVG-PDA ___, inferior
MI in ___, stent of LCx and ___ RCA in ___ (cath showed
occluded SVG-Diag and RPDA at that time), DES to SVG-OM ___
#PUMP: EF 45%
#RHYTHM: NSR 

ACUTE ISSUES: 
============= 
# Chest pain
# CAD s/p CABG (LIMA-LAD, SVG-OM, SVG-diag, SVG-PDA ___,
inferior MI in ___, stent of LCx and ___ RCA in ___ (cath
showed occluded SVG-Diag and RPDA at that time): Presented with 
unstable angina, with ischemic ST depressions on presenting EKG. 
Troponins trended and peaked at 0.29. Patient underwent 
catheterization ___ now s/p DES to SVG-OM anastomosis from 
prior veingraft, complicated by post-cath recurrent angina with 
EKG changes
concerning that culprit lesion was not intervened upon and need
for re-look, however patient's chest pain then resolved and he 
did not require repeat catheterization during this 
hospitalization. He was continued on Aspirin and Plavix post 
procedurally and Imdur 120mg daily. He also underwent ECHO on 
___ notable for "in comparison to prior ECHO ___, left 
ventricular systolic function is reduced, mitral regurgitation 
is increased, and severe pulmonary hypertension is now present."

# HTN: 150s/50s: Continued home Amlodipine, Imdur and Metoprolol 
which was fractionated while inpatient.

# Concern for retinal hemorrhage: 
Patient with concern for vasculitis (Wegener's) and concern for 
starting systemic heparin with risk for retinal hemorrhage (as 
per outpatient ophthalmologist). Patient evaluated by Optho who 
did not indicate contraindication to heparin. 

# ESRD on HD (___), not anuric: Last dialysis ___. 
Continued dialysis ___. 

CHRONIC ISSUES: 
=============== 
# HLD: continue statin, atorva 80 mg

# Paroxysmal atrial fibrillation: Continued Metoprolol for rate 
control.

# Depression: Continued Escitalopram

# Anemia: Hgb 9.4, at baseline. Likely depressed iso ESRD. No 
signs of bleeding during admission.

Transitional Issues:
====================
[] Patient should follow up with PCP ___ AT 3:00 
___ 
[] Cardiology follow up pending at discharge, patient will be 
called for follow up.
[] If patient experiences changes in his vision, new floaters 
should have Optho follow up scheduled as outpatient.
[] Severe pulmonary HTN noted on ___ ECHO, recommend 
outpatient follow up.

Medication Changes:
====================
New Medications: None
Changed medications: Atorvastatin increased to 80mg daily from 
40 mg
Stopped Medications: None
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nephrocaps 1 CAP PO DAILY 
2. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
3. Cinacalcet 60 mg PO DAILY 
4. Calcium Carbonate 500 mg PO QID 
5. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
6. amLODIPine 5 mg PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. Minoxidil 2.5 mg PO DAILY 
9. Metoprolol Succinate XL 100 mg PO DAILY 
10. Atorvastatin 40 mg PO QPM 
11. Clopidogrel 75 mg PO DAILY 
12. Escitalopram Oxalate 5 mg PO DAILY 
13. Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
3.  amLODIPine 5 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Calcium Carbonate 500 mg PO QID  
6.  Cinacalcet 60 mg PO DAILY  
7.  Clopidogrel 75 mg PO DAILY  
8.  Escitalopram Oxalate 5 mg PO DAILY  
9.  Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY  
10.  Metoprolol Succinate XL 100 mg PO DAILY  
11.  Minoxidil 2.5 mg PO DAILY  
12.  Nephrocaps 1 CAP PO DAILY  
13.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
==================
Non ST elevation Myocardial Infarction
ESRD on HD
Concern for retinal hemorrhage

Secondary Diagnosis:
====================
Anemia
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Why was I admitted to the hospital?
You were admitted to the hospital because of chest pain.

What was done for me while I was in the hospital?
You underwent a catheterization procedure in which a vessel of 
your heart was opened. We changed some of your medications as 
detailed below in order to optimize your heart function. Once 
your chest pain was well managed you were felt safe to go home.

What should I do when I leave the hospital?
Please continue all of your medications as prescribed. You need 
to follow up with your PCP and your cardiologist within the next 
2 weeks which is scheduled below. If you notice that your chest 
pain returns please return to the hospital. It is very important 
that you take your Aspirin and Plavix every day.

We wish you the best!
Your ___ treatment team
 
Followup Instructions:
___